datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](#[C:25][C:26]([H:28])[H:29])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25]#[C:24][H:27])([H:28])[H:29])[H:12],42.3002
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:32])([H:33])[H:34])[C:27](=[C:28]([H:36])[H:37])[H:35])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:25]([C:24](=[C:23]([H:29])[H:30])[H:31])([C:26]([H:32])([H:33])[H:34])[C:27](=[C:28]([H:36])[H:37])[H:35])[H:13])([H:11])[H:12],65.5633
[C:0]([C:1]1([H:10])[C:2]2([H:11])[C:3]([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]12[H:15])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])=[C:3]([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]1[H:15])([H:7])([H:8])[H:9],67.7808
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([S:16][H:22])[C:17](=[S:18])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:19])([H:20])[H:21])([S:16][H:22])[C:17](=[S:18])[H:23],121.001
[C:0]([C:1](=[C:2]([O:3][H:9])[H:8])[H:7])([H:4])([H:5])[H:6].[S:10]([H:11])[H:12]>>[C:0]([C:1]([C:2]([O:3][H:9])([H:8])[S:10][H:12])([H:7])[H:11])([H:4])([H:5])[H:6],175.728
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][O:15]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:14][O:15],218.99056
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],115.018
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][O:15],30.9286
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([C:17]([H:28])([H:29])[H:30])[c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:16]([C:15]([C:14]([H:24])([H:25])[H:26])[H:27])([C:17]([H:28])([H:29])[H:30])[c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:7])([H:5])[H:6],60.668
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](#[C:11][C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]#[C:10][H:13])([H:14])[H:15])[H:6],38.6183
[C:3](=[C:4]([H:6])[H:7])[H:5].[S:0]([H:1])[H:2]>>[H:1][C:3](=[C:4]([H:6])[H:7])[H:5].[S:0][H:2],-7.5312
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20],-17.5728
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[O:5])[H:16])([O:6][O:7][H:17])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[O:5])[H:16])([O:6])[H:15])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],174.0544
[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:6])[H:7].[H:5][O:11][H:12],4.5
[C:0]([O:1][H:4])([H:2])[H:3].[N:5]=[O:6]>>[C:0](=[O:1])([H:2])[H:3].[H:4][N:5]=[O:6],0.0
[N:0]([O:1])([H:2])[H:3].[O:4][O:5]>>[H:2][O:4][O:5].[N:0](=[O:1])[H:3],69.036
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14],68.8686
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])[H:7],-3.72376
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[c:11]1([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:17])[H:6])([H:4])[H:5].[c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22],127.403
